US04025629
p-[(7-trifluoromethyl-4-quinolyl)amino]-N,N-dimethylbenzamide.
A mixture of 0.1 mole of N,N-dimethyl-p-aminobenzamide, 0.1 mole of 4-chloro-7-trifluoromethylquinoline, 8 ml. of concentrated hydrochloric acid and 500 ml. of absolute ethanol is heated at reflux for 19 hours, after which 100 ml. of 2.5N sodium hydroxide is added. The mixture is cooled and filtered and the filter cake is recrystallized from methanol. There is thus obtained p-[(7-trifluoromethyl-4-quinolyl)amino]-N,N-dimethylbenzamide.

reactant | N,N-dimethyl-p-aminobenzamide | 0.1 mole | CN(C(C1=CC=C(C=C1)N)=O)C | C9H12N2O
reactant | 4-chloro-7-trifluoromethylquinoline | 0.1 mole | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 2.5N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | p-[(7-trifluoromethyl-4-quinolyl)amino]-N,N-dimethylbenzamide | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N(C)C)C=C1)(F)F | C19H16F3N3O
